US06207686B1
To a solution of (2-hydroxyphenyl)acetic acid (125 g) in dimethylformamide (1.9 l) was added potassium carbonate (909 g) and benzyl bromide (281 g) successively. After being stirred for 18 hours, the mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with 1N aqueous sodium hydroxide solution and brine, dried and evaporated in vacuo. Dichloromethane was added to the residue and the solution was treated with activated carbon. The mixture was filtered and evaporated to give benzyl (2-benzyloxyphenyl)acetate (132 g).

reactant | (2-hydroxyphenyl)acetic acid | 125 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | potassium carbonate | 909 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 281 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 1.9 l | CN(C=O)C | C3H7NO
product | benzyl (2-benzyloxyphenyl)acetate | 132 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C22H20O3
